US05994391
Alkylation of 4-methoxyphenol with 3-(trifluoromethyl)benzyl chloride according to the procedure described in J. Chem. Soc. 2431 (1958) gave 4-methoxy-2-(3'-(trifluoromethyl)benzyl)phenol. This material was converted to compound 67, mp 226.5-228° C., and compound 68, mp 188-190° C., byu the procedure similar to that in Example 18 method B.

reactant | 4-methoxyphenol | COC1=CC=C(C=C1)O | C7H8O2
reactant | 3-(trifluoromethyl)benzyl chloride | FC(C=1C=C(CCl)C=CC1)(F)F | C8H6ClF3
product | 4-methoxy-2-(3'-(trifluoromethyl)benzyl)phenol | COC1=CC(=C(C=C1)O)CC1=CC(=CC=C1)C(F)(F)F | C15H13F3O2
